US07745438B2
[2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(2-(S)-hydroxy-5-methylhexyl)-carbamic acid tert-butyl ester
Dissolve 1-[2-(R)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutylamino]-5-methylhexan-2-(S)-ol (672 mg, 1.06 mmol) in dichloromethane (10 mL). Add 20% aqueous sodium carbonate (10 mL), hydroxylamine (6.5 μL, 0.106 mmol, 50 wt %) and then di-tert-butyl dicarbonate (0.236 g, 1.06 mmol) and stir 72 hours. Separate layers, extract with dichloromethane, dry (magnesium sulfate), filter and concentrate. Dissolve in methanol and add more di-tert-butyl dicarbonate (0.480 g, 2.2 mmol) and stir at room temperature over the weekend. Concentrate and purify on silica gel, eluting with 10:90 to 25:75 ethyl acetate:hexanes to give the desired compound (292 mg).

reactant | 1-[2-(R)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutylamino]-5-methylhexan-2-(S)-ol | 1.06 mmol, 672 mg | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)NC[C@H](CCC(C)C)O)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C39H48F2N2O3
reactant | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine | 0.106 mmol, 6.5 μL | NO | H3NO
reactant | di-tert-butyl dicarbonate | 1.06 mmol, 0.236 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 2.2 mmol, 0.480 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(2-(S)-hydroxy-5-methylhexyl)-carbamic acid tert-butyl ester | 292 mg | C(C)(C)(C)OC(N(C[C@H](CCC(C)C)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C44H56F2N2O5
